US06872833B2
To a stirred solution of 330 g (9.75 mmol) (+)-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-carbamic acid ethyl ester in 200 ml dioxane and 20 ml ethylene glycol was added 200 ml of a 2 N aq. potassium hydroxide solution and the mixture was heated at 100° C. for 2 days. After cooling to room temperature the mixture was poured onto water and extracted three times with ethyl acetate. The combined organic phases were washed with brine, then dried over sodium sulphate and concentrated in vacuo. Flash chromatography (1/9 acetone/dichloromethane) followed by trituration in ethyl acetate afforded 2.18 g (84 %) (+)-7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-ylamine as an off-white solid. [α]D20=+28.2° (c=0.92, CHCl3), ES-MS m/e (%): 267 (M+H+, 100).

reactant | (+)-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-carbamic acid ethyl ester | 9.75 mmol, 330 g | C(C)OC(NC=1SC2=C(N1)C(=CC=C2C2OCCOC2)OC)=O | C15H18N2O5S
reactant | potassium hydroxide | 2 N | [OH-].[K+]
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | ethylene glycol | 20 ml | C(CO)O | C2H6O2
product | (+)-7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-ylamine | 2.18 g, 84 % | O1C(COCC1)C1=CC=C(C=2N=C(SC21)N)OC | C12H14N2O3S
